US08754226B2
Tert-butyl 3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate (7.9 g, 17 mmol) was dissolved in CH2Cl2 (100 mL) and MeOH (10 mL). 4N HCl in dioxane (29 mL, 118 mmol) was added and the reaction stirred at ambient temperature for 3 hours. The reaction was concentrated and purified over silica gel (50-100% EtOAc in hexanes followed by 5% ammoniated methanol in CH2Cl2) to afford 3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one (6.2 g, 17 mmol, 100% yield) as yellow solid.

reactant | Tert-butyl 3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 17 mmol, 7.9 g | FC1=C(C=CC(=C1)S(=O)(=O)C)NC1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H32FN3O5S
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 118 mmol, 29 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one | 17 mmol, 6.2 g, 100% yield | FC1=C(C=CC(=C1)S(=O)(=O)C)NC1C(N(CCC1)C1CCNCC1)=O | C17H24FN3O3S
